### PR TITLE
[Merged by Bors] - feat : Add lemmas about `S⁻¹ R`-submodule membership

### PR DESCRIPTION
**Pull request by pelicanhere**
This PR introduces the lemma `IsLocalization.smul_mem_iff`. 
In particular, this lemma gives a criterion to verify an element's membership in submodules of localized modules.

### CODE REVIEW

File: Mathlib/Algebra/Module/Submodule/Defs.lean [hunk 1]
```diff
@@ -212,6 +212,12 @@ lemma smul_mem_iff'' [Invertible r] :
   rw [← invOf_smul_smul r x]
   exact p.smul_mem _ h
 
+@[simp]
+lemma smul_mem_iff_IsUnit (hr : IsUnit r) :
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Defs.lean:216]:
```suggestion
lemma smul_mem_iff_of_isUnit (hr : IsUnit r) :
```
And I am really sad that we are adding a lemma to a `Def.lean` file but I guess this is not your problem.

File: Mathlib/Algebra/Module/LocalizedModule/Submodule.lean [hunk 2]
```diff
@@ -197,6 +197,26 @@ lemma localized'_le_localized'_of_smul_le {P Q : Submodule R M} (x : p) (h : x 
...
+variable {R' : Type*} [CommSemiring R'] [Algebra R R'] [Module R' M'] [IsLocalization S R']
+variable [Module R M'] [IsScalarTower R R' M']
+variable (f : M → M')
+
+/-- If `x` in a `R' = S⁻¹ R`-module `M'` such that `Den • x = f Num` for some `Num : M` and
+`Den : S`, then `x` is in the submodule `N'` of `M'` if `f Num` is in `N'`.
+In particular, if `M` is a localized module, then `x` is in the submodule `N'` if its
+numerator under the image of `f` also lies in `N`. -/
+lemma mem_of_numerator_image_mem {N' : Submodule R' M'} {x : M'} {Num : M} {Den : S}
+    (h : Den • x = f Num) (hNum : f Num ∈ N') : x ∈ N' := by
```
Comment (erdOne) [inline Mathlib/Algebra/Module/LocalizedModule/Submodule.lean:213]:
```suggestion
lemma mem_of_numerator_image_mem {N' : Submodule R' M'} {x : M'} {s : S}
    s • x  ∈ N' ↔ x ∈ N' := by
```
The statement should be something like this instead. And it should probably be called something like `IsLocalization.smul_mem_iff`. This also shouldn't be in this file because this file is about `LocalizedModule`. Maybe just put it in `RingTheory/Localization/Basic` for now.

Comment (pelicanhere) [reply Mathlib/Algebra/Module/LocalizedModule/Submodule.lean]: Okay, now I revised the lemma.

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 3]
```diff
@@ -235,6 +235,22 @@ theorem algEquivOfAlgEquiv_symm : (algEquivOfAlgEquiv S Q h H).symm =
 
 end AlgEquivOfAlgEquiv
 
+section smul
+
+variable {R : Type*} [CommSemiring R] (S : Submonoid R)
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Basic.lean:240]:
```suggestion
variable {R : Type*} [CommSemiring R] {S : Submonoid R}
```
I think this should be implicit.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by kbuzzard** [comment]
Thanks a lot!

bors merge
